datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.C[N+:21](C)=[CH2:20]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.C[N:21](C)[CH2:20][H:10] 10,11=10,20;20,21=21"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[NH2:10].CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([NH2+:10]C(C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;12=11,12"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11](C)=[CH2:10]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[C:11](C)[CH2:10][S:20]C(F)(F)F 10,11=10,20;12=11,12;20,21=21"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2)[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C1C[C:20](=[O:21])C1.C[S+:61](C)([CH2-:10])=[O:62]>>C[S+:61](C)([CH2:10][C:20]1([O-:21])CCC1)=[O:62] 10=20;20,21=21"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C12CCCC2.C[C:22]([CH:21]=[CH2:20])=[O:23]>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH2:20][CH:21]=[C:22](C)[O-:23])C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20;12=11,12"
"CC[O:72][C:61](/[CH:10]=[C:11](/C)[O-:12])=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:61]([CH:10]([C:11](C)=[O:12])[C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.C[Si:11](C)(C)[H:10]>>C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.C[Si+:11](C)C 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[C:11]1=[N:10]CC[NH:12]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CC[NH+:12]=[C:11]2C)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([N:10]2[C:61]3=[C:62](C=NC=N3)[N:72]=[CH:71]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64]>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([CH2:10][C:11](C3=CC=C(Cl)C=C3)=[NH+:12][C:63](C)=[O:64])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
